US06303783B1
Preparation of N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}(thiocarbamoyl)}glycine, ethyl ester
A solution of 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (3.0 g, 8.89 mmol) in a tetrahydrofuran/ethanol solution (1:1) is treated with ethyl isothiocyanatoacetate (1.93 g, 13.34 mmol), refluxed for 9 hours, stirred at room temperature overnight, and concentrated in vacuo to obtain an orange-brown gum. Flash column chromatography of the gum using silica gel and 25% to 30% ethyl acetate in hexanes solutions gives the title product as a white foam (2.24 g, 52% yield, mp 95-103° C.) which is identified by 1H, 13C and 19F NMR spectral analyses.

reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 8.89 mmol, 3.0 g | NC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H8ClF4N3O2
reactant | tetrahydrofuran ethanol | O1CCCC1.C(C)O
reactant | ethyl isothiocyanatoacetate | 13.34 mmol, 1.93 g | N(=C=S)CC(=O)OCC | C5H7NO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}(thiocarbamoyl)}glycine, ethyl ester | 2.24 g, 52% yield | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=S)NCC(=O)OCC | C17H15ClF4N4O4S
